US08497264B2
In a microwave vial, the potassium phosphate (0.071 g, 0.334 mmol), PdCl2(AmPhos)2 (7.88 mg, 0.011 mmol), 2-fluoropyridin-3-ylboronic acid (0.020 g, 0.139 mmol), and (R)-2′-bromo-7′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (0.049 g, 0.111 mmol) were suspended in dioxane (2 mL) and water (0.5 mL). Argon gas was blown through the vessel, which was sealed and heated by microwave at 120° C. for 30 min. The mixture was concentrated, and the residue was diluted with brine (15 mL), and the aqueous phase was extracted with 5% MeOH-dcm (3×25 mL). The organics were combined, dried over sodium sulfate and concentrated. The residue was purified by chromatography (3.5%-4.5% MeOH/DCM) to afford (R)-2′-(2-fluoropyridin-3-yl)-7′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (35 mg, 0.076 mmol). MS (m/z) 457 (M+H)+.

reactant | potassium phosphate | 0.334 mmol, 0.071 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-fluoropyridin-3-ylboronic acid | 0.139 mmol, 0.020 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | (R)-2′-bromo-7′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.111 mmol, 0.049 g | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C1=CC(=NC=C1)F)COCC(=N3)N | C21H15BrFN3O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | PdCl2(AmPhos)2 | 0.011 mmol, 7.88 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (R)-2′-(2-fluoropyridin-3-yl)-7′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.076 mmol, 35 mg | FC1=NC=CC=C1C1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C1=CC(=NC=C1)F)COCC(=N3)N | C26H18F2N4O2
